US05905166
Preparation of ID-8 According to Method C
23.6 g of ID-1 were refluxed together with 20.2 g of sulphobenzoic anhydride and 9 ml of pyridine in 200 ml of toluene. The oil formed was taken up in 300 ml of NaOH 1N and again heated to reflux with 200 ml of toluene. After elimination of the solvents by evaporation the precipitate formed was taken up in 500 ml of methanol. The precipitate, a lightly yellow powder, dissolved but recrystallized immediately. The yield was 54%.

reactant | ID-1 | 23.6 g | CC1=CC=C(C=C1)N2C(=C(C3=C2C(=C(C=C3)O)C(C)C)[N+](=O)[O-])/C=C/N(C)C | C22H25N3O3
reactant | sulphobenzoic anhydride | 20.2 g | S(=O)(=O)(O)C1=C(C(=O)OC(C2=C(C=CC=C2)S(=O)(=O)O)=O)C=CC=C1 | C14H10O9S2
reactant | pyridine | 9 ml | N1=CC=CC=C1 | C5H5N
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 1N, 300 ml | [OH-].[Na+]
solvent | methanol | 500 ml | CO | CH4O
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | ID-8 | yield was 54% | CC1=C(C2=C(N1C3=CC=C(C=C3)OC)C=C(C=C2)O)[N+](=O)[O-] | C16H14N2O4
